US04569690
2-Chloroethyl 4-chloro-N-hydroxybenzenecarboximidothioate (2.5 g, 0.01 mol) was cyclised with sodium (0.23 g) in ethanol (25 ml) as described in Example 2. 3-(4-Chlorophenyl)-5,6-dihydro-1,4,2-oxathiazine, mp 80.5°-81.5° C., was isolated. (Found: C,50.16; H,4.24; N,6.44. C9H8ClNOS requires C,50.58; H,3.77; N,6.55.)

reactant | 2-Chloroethyl 4-chloro-N-hydroxybenzenecarboximidothioate | 0.01 mol, 2.5 g | ClC1=CC=C(C=C1)C(=NO)SCCCl | C9H9Cl2NOS
reactant | sodium | 0.23 g | [Na] | Na
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(4-Chlorophenyl)-5,6-dihydro-1,4,2-oxathiazine | ClC1=CC=C(C=C1)C1=NOCCS1 | C9H8ClNOS
